US04022778
Ethyl 1-cyanomethyl-3-phenyl-5-chloroindole-2-carboxylate
To a suspension of sodium hydride (from 7.2 gms., 0.15 mole 50% sodium hydride dispersed in mineral oil) in 125 ml fresh dimethyl formamide (DMF) is added ethyl 3-phenyl-5-chloroindole-2-carboxylate (45 gms, 0.15 mole), as a dry powder, in portions. The reaction is exothermic and requires a water bath to maintain the temperature between 45°-50° C. After stirring 15-20 minutes (at 35° C), chloroacetonitrile (12 grams, 0.15 mole) in 25 ml DMF is added slowly. The temperature rises to 45° C and the mixture is stirred overnight at ambient temperature. The mixture is then transferred to a one liter beaker and 500 ml of ice-water is added slowly. After 15-20 minutes the product is filtered off, washed well with water, and dried on a Buchner funnel. After recrystallization from ethanol the product gives a m.p. of 117°-19° C. There is obtained a total of 46 grams (90.2%), of sufficient purity for the next step. A sample is recrystallized from aqueous ethanol, washed with water and vacuum dried, m.p. 119°-120° C.

reactant | sodium hydride | 0.15 mole, 7.2 gms | [H-].[Na+]
reactant | ethyl 3-phenyl-5-chloroindole-2-carboxylate | 0.15 mole, 45 gms | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)Cl)C(=O)OCC | C17H14ClNO2
reactant | chloroacetonitrile | 0.15 mole, 12 grams | ClCC#N | C2H2ClN
solvent | dimethyl formamide | 125 ml | CN(C=O)C | C3H7NO
solvent | DMF | 25 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-cyanomethyl-3-phenyl-5-chloroindole-2-carboxylate | C(#N)CN1C(=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)C(=O)OCC | C19H15ClN2O2
